US07291631B2
A solution of 6-chloro-5-methyl-3-trifluoromethyl-pyridine-2-carbonitrile (0.300 g, 1.36 mmol) in MeOH (5 mL) was added to a flask charged with Raney Ni (pre-washed with methanol) (0.6 g) in MeOH (5 mL). After saturated with NH3 gas the mixture was shaken under H2 (40 psi) for 2 h. The reaction mixture was then filtered through a celite cake, and the filtrate was concentrated by evaporation under vacuum. The residue was purified by flash chromatography on a silica gel column (200:10:1 CH2Cl2/MeOH/NH4OH), affording C-(5-methyl-3-trifluoromethyl-pyridin-2-yl)-methylamine as a colorless oil (0.113 g, 44%). 1H NMR (CDCl3) δ 2.39 (s, 3H), 4.07 (s, 2H), 7.71 (s, 1H), 8.56 (s, 1H).

reactant | 6-chloro-5-methyl-3-trifluoromethyl-pyridine-2-carbonitrile | 1.36 mmol, 0.300 g | ClC1=C(C=C(C(=N1)C#N)C(F)(F)F)C | C8H4ClF3N2
reactant | NH3 | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Ni | 0.6 g | [Ni] | Ni
product | C-(5-methyl-3-trifluoromethyl-pyridin-2-yl)-methylamine | 0.113 g, 44% | CC=1C=C(C(=NC1)CN)C(F)(F)F | C8H9F3N2
